US05053070
5.5 g of 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime and 4.2 g of 3-methylcinnamyl bromide were dissolved in 30 ml of acetonitrile containing 2.7 g of anhydrous potassium carbonate, and the solution was heated for 5 hours under stirring and reflux. After the reaction mixture was allowed to cool down, the acetonitrile was distilled out under reduced pressure and the resulting residue was dissolved in 200 ml of ethyl acetate. The ethyl acetate solution was washed with water and the organic layer was dried over anhydrous sodium sulfate. The solution was then concentrated under reduced pressure. The residue was purified by silica gel chromatography (developer: n-hexane:ethyl acetate:4:1) to obtain 5.2 g of 0-(3-methylcinnamyl)-2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime as crystals.

reactant | 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime | 5.5 g | COC1=NC(=NC(=C1)OC)OC1=C(C=NO)C=CC=C1 | C13H13N3O4
reactant | 3-methylcinnamyl bromide | 4.2 g | CC=1C=C(C=CCBr)C=CC1 | C10H11Br
solvent | acetonitrile | 30 ml, 2.7 g | C(C)#N | C2H3N
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 0-(3-methylcinnamyl)-2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime | 5.2 g | CC=1C=C(C=CCC2(C(C=NO)C=CC=C2)OC2=NC(=CC(=N2)OC)OC)C=CC1 | C23H25N3O4
